US05739299
Preparation of 4-(3,5-dinitrothien-2-ylazo)-N-ethyl-N-(4-fluorosulphonylphenyl)propyl aniline
2-Amino-3,5-dinitrothiophene (0.01 mol) was dispersed in a mixture of acetic:propionic acid (86:14; 25 cm3), cooled to 0°-5° C. and nitrosyl sulphuric acid (0.01 mol) added portionwise at 0°-5° C. The reaction mixture was stirred for 10 minutes at 0°-5° C. then added dropwise to a mixture of the N-ethyl-N-(4-fluorosulphonylphenylpropyl)aniline (0.01 mol), methanol (50 cm3) and ice (50 g). The resultant precipitate was filtered washed with water and then methanol and oven dried at 50° C. The dry dye has a λmax of 617 nm and gives good fastness to washing, light and heat.

reactant | 2-Amino-3,5-dinitrothiophene | 0.01 mol | NC=1SC(=CC1[N+](=O)[O-])[N+](=O)[O-] | C4H3N3O4S
reactant | nitrosyl sulphuric acid | 0.01 mol | N(=O)OS(O)(=O)=O | HNO5S
reactant | N-ethyl-N-(4-fluorosulphonylphenylpropyl)aniline | 0.01 mol | C(C)N(C1=CC=CC=C1)CCCC1=CC=C(C=C1)S(=O)(=O)F | C17H20FNO2S
reactant | methanol | 50 cm3 | CO | CH4O
solvent | acetic propionic acid | 25 cm3 | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C.C(CC)(=O)O
product | 4-(3,5-dinitrothien-2-ylazo)-N-ethyl-N-(4-fluorosulphonylphenyl)propyl aniline | [N+](=O)([O-])C1=C(SC(=C1)[N+](=O)[O-])N=NC1=CC=C(N(CCCC2=CC=C(C=C2)S(=O)(=O)F)CC)C=C1 | C21H20FN5O6S2
